* c:\users\gowthami\esim-workspace\xyz\xyz.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ porta vss vss CMOSN W=100u L=100u M=1
m5 portb net-_m1-pad1_ vss vss CMOSN W=100u L=100u M=1
m8 net-_m3-pad2_ portb vss vss CMOSN W=100u L=100u M=1
m4 porta net-_m3-pad2_ vss vss CMOSN W=100u L=100u M=1
m2 net-_m1-pad1_ porta net-_m2-pad3_ net-_m2-pad3_ CMOSP W=100u L=100u M=1
m6 portb net-_m1-pad1_ net-_m2-pad3_ net-_m2-pad3_ CMOSP W=100u L=100u M=1
m3 porta net-_m3-pad2_ net-_m12-pad3_ net-_m12-pad3_ CMOSP W=100u L=100u M=1
m7 net-_m3-pad2_ portb net-_m12-pad3_ net-_m12-pad3_ CMOSP W=100u L=100u M=1
v1 porta gnd  dc 5V
r3  vss net-_m12-pad2_ 5k
m12 net-_m12-pad1_ net-_m12-pad2_ net-_m12-pad3_ net-_m12-pad3_ CMOSN W=100u L=100u M=1
r4  vss net-_m12-pad3_ 10k
r2  vss net-_m9-pad2_ 5k
m9 net-_m2-pad3_ net-_m9-pad2_ vss vss CMOSN W=4u L=180n M=1
r1  net-_m2-pad3_ net-_r1-pad2_ 10k
v3 net-_r1-pad2_ gnd  dc 5V
v2 net-_m12-pad1_ gnd  dc 5V
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
